US06600037B1
2M aqueous Na2CO3 (4.7 ml, 9.4 mmol) was added to a solution of 2,4,5-trichloropyrimidine [Chesterfield, J.; McOmie, J. F. W.; Sayer, E. R.; J. Chem. Soc. (1955) 3478-3481] (1.18 g, 6.44 mmol), tert-butyl N-{1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]1-methylethyl}carbamate (1.55 g, 4.29 mmol) and tetrakis(triphenylphosphine)palladium (O) (150 mg, 0.13 mmol) in ethyleneglycol dimethylether (20 ml) under N2 and the mixture heated to reflux for 6 h. The reaction was diluted with H2O (30 ml) and extracted with ethyl acetate (3×50 ml), the combined ethyl acetate extracts were washed with brine (30 ml), dried (MgSO4) and concentrated in vacuo. The crude product was purified by column chromatography (SiO2, 15% ethyl acetate in hexane) to give 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-2,5-dichloropyrimidine as a white solid (1.34 g). δH (d6DMSO) 8.62 (1H, s), 7.90 (2H, d, J 8.6 Hz), 7.54 (2H, dt, J 8.7, 2.1 Hz), 5.02 (1H, bs), 1.65 (6H, s) and 1.37 (9H, s).

reactant | Na2CO3 | 9.4 mmol, 2M, 4.7 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,4,5-trichloropyrimidine | 6.44 mmol, 1.18 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | tert-butyl N-{1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]1-methylethyl}carbamate | 4.29 mmol, 1.55 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O)C | C20H32BNO4
solvent | ethyleneglycol dimethylether | 20 ml | COCCOC | C4H10O2
solvent | H2O | 30 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.13 mmol, 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-2,5-dichloropyrimidine | 1.34 g | C(C)(C)(C)OC(=O)NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1Cl)Cl | C18H21Cl2N3O2
